US07034039B2
A mixture of 3-(aminomethyl)-6-bromo-2-isobutyl-4-phenyl-1(2H)-isoquinolinone (0.19 g, 0.50 mmol), sodium thiomethoxide (0.043 g, 0.60 mmol) and dimethylsulfide (2 mL) was stirred at 70° C. for 2 h. To the reaction mixture was added another sodium thiomethoxide (0.043 g, 0.60 mmol), and the resulting mixture was stirred at 70° C. for 2 h. The reaction mixture was partitioned between water (100 mL) and ethyl acetate (25 mL) and the aqueous layer was extracted with ethyl acetate (25 mL). The extracts were combined and washed once each with saturated aqueous sodium hydrogencarbonate (25 mL) and saturated brine (25 mL), dried over anhydrous magnesium sulfate (12 g) and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:5 (v/v)) to give 3-(aminomethyl)-2-isobutyl-6-(methylsulfanyl)-4-phenyl-1(2H)-isoquinolinone (0.16 g, 88%) as an oil.

reactant | 3-(aminomethyl)-6-bromo-2-isobutyl-4-phenyl-1(2H)-isoquinolinone | 0.50 mmol, 0.19 g | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC(C)C | C20H21BrN2O
reactant | sodium thiomethoxide | 0.60 mmol, 0.043 g | C[S-].[Na+]
reactant | dimethylsulfide | 2 mL | CSC | C2H6S
reactant | sodium thiomethoxide | 0.60 mmol, 0.043 g | C[S-].[Na+]
product | 3-(aminomethyl)-2-isobutyl-6-(methylsulfanyl)-4-phenyl-1(2H)-isoquinolinone | 0.16 g, 88% | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)SC)=O)CC(C)C | C21H24N2OS
